.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include dfxtn_layout_pex.spice
.include invx1_schematic.spice

* Supply voltages
VDD vdd 0 DC 1.8
VSS vss 0 DC 0

* Clock source (10 ns period: 5 ns high, 5 ns low)
VCLK c 0 PULSE(0 1.8 0 20p 20p 5n 10n)

* Data input: single pulse aligned to falling edge (slightly before 10 ns)
VD d 0 PULSE(0 1.8 12n 20p 20p 6n 20n)

* Instantiate DFF
XDF1 d q c vdd vss dfxtn

* Load inverter at output
XLOAD q nc vdd vss invx1_sch

* Transient simulation
.ic V(q) = 1.8
.tran 10p 25n

* Measure rise/fall time at Q_out (10% to 90% of VDD)
.meas tran q_rise TRIG V(q) VAL=0.36 RISE=1 TARG V(q) VAL=1.44 RISE=1 TD=2n
.meas tran q_fall TRIG V(q) VAL=1.44 FALL=1 TARG V(q) VAL=0.36 FALL=1 TD=2n

* Output waveforms
.control
run
plot V(c) V(d) V(q)
.endc

.end
